US08669234B2
4-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-(2-methoxycarbonylamino-3-methyl-butyryl)-imidazolidine-1-carboxylic acid tert-butyl ester (723 mg) was dissolved in m-xylenes (6.0 mL) and heated at 135° C. Solid ammonium acetate (500 mg, 6.48 mmol) was added and the reaction was stirred at 135° C. After 45 minutes, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The crude material was purified via silica gel chromatography (eluent: EtOAc w 10% MeOH/hexanes) to yield the product 4-(4-Bromo-phenyl)-3′-(2-methoxycarbonylamino-3-methyl-butyryl)-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid tert-butyl ester (436 mg): LCMS-ESI+: calc'd for C24H32BrN5O5: 550.4 (M+). Found: 551.2/553.2 (M+H+).

reactant | 4-[2-(4-Bromo-phenyl)-2-oxo-ethylcarbamoyl]-3-(2-methoxycarbonylamino-3-methyl-butyryl)-imidazolidine-1-carboxylic acid tert-butyl ester | 723 mg | C(C)(C)(C)OC(=O)N1CN(C(C1)C(NCC(=O)C1=CC=C(C=C1)Br)=O)C(C(C(C)C)NC(=O)OC)=O | C24H33BrN4O7
reactant | ammonium acetate | 6.48 mmol, 500 mg | C(C)(=O)[O-].[NH4+]
product | 4-(4-Bromo-phenyl)-3′-(2-methoxycarbonylamino-3-methyl-butyryl)-2′,3′,4′,5′-tetrahydro-1H-[2,4]biimidazolyl-1′-carboxylic acid tert-butyl ester | 436 mg | C(C)(C)(C)OC(=O)N1CN(C(C1)C=1NC=C(N1)C1=CC=C(C=C1)Br)C(C(C(C)C)NC(=O)OC)=O | C24H32BrN5O5
